US05352719
20-(3-hydrazino-3-oxopropyl)-2,2,4,4-tetramethyl-7-oxa-3,20-diazadispiro[5.1.11.2]heneicosane-21-one
20-(3-Dodecyloxy-3-oxopropyl)-2,2,4,4-tetramethyl-7-oxa-3,20-diazadispiro[5.1.11.2]heneicosane-21-one (Sanduvor 3050™), 66.5 g (0.11 mole) was placed in a flask and dissolved with 150 ml methanol. To this was added 35 ml of hydrazine (54% in water) producing an immediate white precipitate. The mixture was stirred at ambient temperature for 28 hours. Most of the solvent was stripped using aspirator vacuum and the residue taken up in 100 ml methyl t-butyl ether and 175 ml tetrahydrofuran. The aqueous layer which separated was removed and the organic phase washed with three 50 ml portions of saturated sodium chloride. The organic material was dried with anhydrous magnesium sulfate, and the solvent was stripped using aspirator vacuum. The white semi-solid residue was slurried with pentane and isolated. The product weighed 39.4 g (79% of theory) and had two melting points at 171°-174° C. and 185° C. The infrared spectrum (in chloroform) showed a carbonyl band at 1680 cm-1.

reactant | 20-(3-Dodecyloxy-3-oxopropyl)-2,2,4,4-tetramethyl-7-oxa-3,20-diazadispiro[5.1.11.2]heneicosane-21-one | C(CCCCCCCCCCC)OC(CCN1C2(OC3(CC(NC(C3)(C)C)(C)C)C1=O)CCCCCCCCCCC2)=O | C37H68N2O4
reactant | methanol | 150 ml | CO | CH4O
reactant | hydrazine | 35 ml | NN | H4N2
solvent | methyl t-butyl ether | 100 ml | C(C)(C)(C)OC | C5H12O
solvent | tetrahydrofuran | 175 ml | O1CCCC1 | C4H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 20-(3-hydrazino-3-oxopropyl)-2,2,4,4-tetramethyl-7-oxa-3,20-diazadispiro[5.1.11.2]heneicosane-21-one | N(N)C(CCN1C2(OC3(CC(NC(C3)(C)C)(C)C)C1=O)CCCCCCCCCCC2)=O | C25H46N4O3
